US04305868
2-stearamido-2-methylpropyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate
In a 500 ml, three-neck, round-bottom flask equipped with a thermometer, stirrer and dropping funnel were placed 26 g (0.75 mole) of 2-amino-2-methylpropyl 3-(3,5-di-t-butyl-4-hydroxyphenyl)propionate, 200 ml of benzene and 8.2 g of triethylamine. To this stirred mixture was added 22.5 g (0.075 mole) of stearoyl chloride, and the mixture stirred for 4 hours. The triethylamine hydrochloride was removed by filtration and the solvent was stripped off. The residue was dissolved in hot hexane. After crystallization, filtration and drying, the title compound melted at 46°-48° C.

reactant | 2-amino-2-methylpropyl 3-(3,5-di-t-butyl-4-hydroxyphenyl)propionate | 0.75 mole, 26 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OCC(C)(C)N | C21H35NO3
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | stearoyl chloride | 0.075 mole, 22.5 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | triethylamine | 8.2 g | C(C)N(CC)CC | C6H15N
product | 2-stearamido-2-methylpropyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OCC(C)(C)NC(CCCCCCCCCCCCCCCCC)=O | C39H69NO4
